US07402595B2
3-acetyl-6-bromo-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one
In the same manner as in Example 311, the title compound was synthesized using 6-bromo-3-(1-hydroxyethyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one. Crystals (THF-diisopropyl ether).

reactant | 6-bromo-3-(1-hydroxyethyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(C)O)C1=CC=CC=C1 | C25H22BrNO4S
reactant | THF diisopropyl ether | C1CCOC1.C(C)(C)OC(C)C
product | 3-acetyl-6-bromo-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C25H20BrNO4S
